US07262185B2
To 2-[[(4-nitrophenyl)sulfanyl]methyl]pyridine (6.7 g) were added 85% ethanol solution (203 ml), and to this mixture was added calcium chloride (1.53 g) and reduced iron (7.68 g), and the mixture was heated to reflux for 16 hours. After allowing the mixture to be cooled to room temperature, ethanol was removed under reduced pressure, and the obtained residue was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was removed under reduced pressure, and the obtained residue was purified by silica gel column chromatography, to give 4-[(2-pyridinylmethyl)sulfanyl]aniline (3.9 g).

reactant | 2-[[(4-nitrophenyl)sulfanyl]methyl]pyridine | 6.7 g | [N+](=O)([O-])C1=CC=C(C=C1)SCC1=NC=CC=C1 | C12H10N2O2S
reactant | calcium chloride | 1.53 g | [Cl-].[Ca+2].[Cl-]
solvent | ethanol | 203 ml | C(C)O | C2H6O
product | 4-[(2-pyridinylmethyl)sulfanyl]aniline | 3.9 g | N1=C(C=CC=C1)CSC1=CC=C(N)C=C1 | C12H12N2S
